### ISSUE TITLE
projections unfolding while defining structures

### ISSUE THREAD

**Issue by semorrison** [leanprover-community/lean#197]
We've seen a few instances of this general problem, in which while defining a structure, Lean unfolds too many projections (often breaking typeclass notations).

(In fact, today this bug is getting in the way of two separate projects of mine!)

This is an example provided by @urkud from https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Lean.20unfolds.20projections.

```lean
import data.set.lattice

open set

namespace hidden

universes u v

variables (M : Type u) (G : Type v) [monoid M] [group G]

structure submonoid :=
(carrier : set M)
(one_mem' : (1:M) ∈ carrier)
(mul_mem' : ∀ (x ∈ carrier) (y ∈ carrier), x * y ∈ carrier)

structure subgroup extends submonoid G :=
(inv_mem' : ∀ x ∈ carrier, x⁻¹ ∈ carrier)

variables {M G}

instance : has_coe (subgroup G) (set G) := ⟨λ S, S.carrier⟩

instance : has_mem G (subgroup G) := ⟨λ x S, x ∈ (S : set G)⟩

instance example_1 : has_Inf (subgroup G) :=
⟨λ S, { carrier := ⋂ s ∈ S, ↑s,
  one_mem' := mem_bInter $ λ s hs, s.one_mem',
  mul_mem' := by { simp only [mem_bInter_iff], intros x hx y hy s hs, exact s.to_submonoid.mul_mem' _ (hx _ hs) _ (hy _ hs) },
  -- The goal for `inv_mem'` becomes:
  -- ⊢ ∀ (x : G), set.mem x (⋂ (s : subgroup G) (H : s ∈ S), ↑s) → set.mem x⁻¹ (⋂ (s : subgroup G) (H : s ∈ S), ↑s)
  -- Note in particular that `∈` has been unfolded inappropriately to `set.mem`.
  inv_mem' := by { trace_state, sorry } }⟩

-- One workaround is to introduce the variables in `mul_mem'`
-- before the tactic block.
instance example_2 : has_Inf (subgroup G) :=
⟨λ S, { carrier := ⋂ s ∈ S, ↑s,
  one_mem' := mem_bInter $ λ s hs, s.one_mem',
  mul_mem' := λ x hx y hy,
  begin
    simp only [mem_bInter_iff] at hx hy ⊢,
    intros s hs,
    exact s.to_submonoid.mul_mem' _ (hx _ hs) _ (hy _ hs)
  end,
  -- Now the goal contains a `{ carrier := ... }.carrier`,
  -- but even when we `dsimp` this, the `∈` is not disturbed.
  inv_mem' := by { dsimp, trace_state, sorry } }⟩

end hidden
```

**Comment by kbuzzard** [comment]
For what it's worth, here's the mathlib-free version:

```lean
class has_Inf (α : Type*) := (Inf : set α → α)

def Inf {α : Type*} [has_Inf α] : set α → α := has_Inf.Inf

instance {α : Type*} : has_Inf (set α) := ⟨λs, {a | ∀ t ∈ s, a ∈ t }⟩

def set.range {α : Type*} {ι : Sort*} (f : ι → α) : set α := {x | ∃y, f y = x}

open set

def infi {α : Type*} {ι : Sort*} [has_Inf α] (s : ι → α) : α := Inf (range s)

namespace set

@[reducible] def Inter {β : Type*} {ι : Sort*} (s : ι → set β) : set β := infi s

notation `⋂` binders `, ` r:(scoped f, Inter f) := r

theorem mem_bInter {α : Type*} {β : Type*} {s : set α} {t : α → set β} {y : β} (h : ∀ x ∈ s, y ∈ t x) :
  y ∈ ⋂ x ∈ s, t x := sorry

theorem mem_bInter_iff {α : Type*} {β : Type*} {s : set α} {t : α → set β} {y : β} :
  y ∈ (⋂ x ∈ s, t x) ↔ ∀ x ∈ s, y ∈ t x := sorry

end set

universes u v

open set

namespace hidden

variables (M : Type u) (G : Type v) [monoid M] [group G]

structure submonoid :=
(carrier : set M)
(one_mem' : (1:M) ∈ carrier)
(mul_mem' : ∀ (x ∈ carrier) (y ∈ carrier), x * y ∈ carrier)

structure subgroup extends submonoid G :=
(inv_mem' : ∀ x ∈ carrier, x⁻¹ ∈ carrier)

variables {M G}

instance : has_coe (subgroup G) (set G) := ⟨λ S, S.carrier⟩

instance : has_mem G (subgroup G) := ⟨λ x S, x ∈ (S : set G)⟩

instance example_1 : has_Inf (subgroup G) :=
⟨λ S, { carrier := ⋂ s ∈ S, ↑s,
  one_mem' := mem_bInter $ λ s hs, s.one_mem',
  mul_mem' := by { simp only [mem_bInter_iff], intros x hx y hy s hs, exact s.to_submonoid.mul_mem' _ (hx _ hs) _ (hy _ hs) },
  -- The goal for `inv_mem'` becomes:
  -- ⊢ ∀ (x : G), set.mem x (⋂ (s : subgroup G) (H : s ∈ S), ↑s) → set.mem x⁻¹ (⋂ (s : subgroup G) (H : s ∈ S), ↑s)
  -- Note in particular that `∈` has been unfolded inappropriately to `set.mem`.
  inv_mem' := by { trace_state, sorry } }⟩

-- One workaround is to introduce the variables in `mul_mem'`
-- before the tactic block.
instance example_2 : has_Inf (subgroup G) :=
⟨λ S, { carrier := ⋂ s ∈ S, ↑s,
  one_mem' := mem_bInter $ λ s hs, s.one_mem',
  mul_mem' := λ x hx y hy,
  begin
    simp only [mem_bInter_iff] at hx hy ⊢,
    intros s hs,
    exact s.to_submonoid.mul_mem' _ (hx _ hs) _ (hy _ hs)
  end,
  -- Now the goal contains a `{ carrier := ... }.carrier`,
  -- but even when we `dsimp` this, the `∈` is not disturbed.
  inv_mem' := by { dsimp, trace_state, sorry } }⟩

end hidden
```

**Comment by semorrison** [comment]
Thanks @kbuzzard! Based on that, I've minimised further:

```lean
variables (G : Type)

structure S1 :=
(carrier : set G)
(a1 : ∀ x ∈ carrier, true)

structure S2 extends S1 G :=
(a2 : ∀ x ∈ carrier, true)

def example_1 (S : set (S2 G)) : S2 G :=
{ carrier := ∅,
  a1 := by { intros x hx, trivial },
  -- The goal for `a2` becomes:
  -- ⊢ ∀ (x : G), set.mem x ∅ → true
  -- Note in particular that `∈` has been unfolded inappropriately to `set.mem`.
  a2 := by { trace_state, sorry } }

-- One workaround is to introduce the variables in `mul_mem'`
-- before the tactic block.
def example_2 (S : set (S2 G)) : S2 G :=
{ carrier := ∅,
  a1 := λ x hx, trivial,
  -- Now the goal contains a `{ carrier := ... }.carrier`,
  -- but even when we `dsimp` this, the `∈` is not disturbed.
  a2 := by { dsimp, trace_state, sorry } }
```
